US04814112
Preparation of palmitoyl ethyl carbonate:
Palmitic acid and ethyl chloroformate are reacted with methylene chloride in a molar ratio of 1:1 in the presence of dry sodium carbonate. Inorganic material is filtered off, and the resulting filtrate is used directly in the reaction.

reactant | Palmitic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | palmitoyl ethyl carbonate | C(OC(CCCCCCCCCCCCCCC)=O)(OCC)=O | C19H36O4
